US08404647B2
General Procedure IIIa: Coupling with PyBOP/NMM
Fmoc-amino acid (4 equiv), PyBOP (4 equiv), and NMM (4 equiv) were dissolved in DMF (2 ml) and added to the resin. The reaction mixture was shaken at room temperature for 90 min and washed with DMF (5×2 ml).

reactant | PyBOP | 4 equiv | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | NMM | 4 equiv | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | PyBOP NMM | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F.CN1CCOCC1 | InChI=1S/C18H28N6OP.C5H11NO.F6P/c1-2-10-18-17(9-1)19-20-24(18)25-26(21-11-3-4-12-21,22-13-5-6-14-22)23-15-7-8-16-23;1-6-2-4-7-5-3-6;1-7(2,3,4,5)6/h1-2,9-10H,3-8,11-16H2;2-5H2,1H3;/q+1;;-1
